US08017804B2
607 mg Boc-Dap(Fmoc)-N-lauryl-N-myristyl amide were dissolved in 8 ml anhydrous dichloromethane in a 50 ml round-bottom flask (FIG. 6). 3 ml diethylamine were added and the reaction steered at room temperature for 4.5 hours. The volatile constituents were removed using a rotary evaporator and the residue was purified by chromatography using 40 g silica gel 60 (Merck) with hexane/ethylacetate 5:1. The product was eluted by a step gradient consisting of ethylacetate, dichloromethane and dichloromethane/methanol 3:1. 372 mg (0.655 mmol) Boc-Dap-N-lauryl-N-myristyl amide were obtained as yellowish, viscous oil.

reactant | Boc-Dap(Fmoc) N-lauryl-N-myristyl amide | 607 mg | N([C@@H](CNC(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)C(=O)O)C(=O)OC(C)(C)C.C(CCCCCCCCCCC)[N-]CCCCCCCCCCCCCC
reactant | diethylamine | 3 ml | C(C)NCC | C4H11N
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | Boc-Dap N-lauryl-N-myristyl amide | 0.655 mmol, 372 mg | N([C@@H](CN)C(=O)O)C(=O)OC(C)(C)C.C(CCCCCCCCCCC)[N-]CCCCCCCCCCCCCC | InChI=1S/C26H54N.C8H16N2O4/c1-3-5-7-9-11-13-15-16-18-20-22-24-26-27-25-23-21-19-17-14-12-10-8-6-4-2;1-8(2,3)14-7(13)10-5(4-9)6(11)12/h3-26H2,1-2H3;5H,4,9H2,1-3H3,(H,10,13)(H,11,12)/q-1;/t;5-/m.0/s1
